US07435731B2
Step 10: Preparation of 3-(2-chlorophenyl)-6-(2,4-difluorophenoxy)-4-methyl-5-oxo-4,5-dihydro-pyrazolo[4,3-b]pyridine-1-carboxylic acid tert-butyl ester
To a solution of 6-(2,4-difluorophenoxy)-3-iodo-4-methyl-5-oxo-4,5-dihydro-pyrazolo[4,3-b]pyridine-1-carboxylic acid tert-butyl ester (18 mg) in benzene (1.3 mL) and methanol (0.26 mL) was added 1 M aqueous solution of sodium carbonate (76 μL, 2 eq), 2-chlorophenylboronic acid (12 mg, 2 eq), and Pd(PPh3)4 (13 mg, 0.3 eq). The mixture was purged with argon, heated at reflux for 2 hours, cooled to room temperature, and diluted with ethyl acetate (35 mL) and water (25 mL). The organic layer was separated, washed with brine (1×25 mL), dried over magnesium sulfate, filtered and concentrated to give the crude product ((M+H)+=488) which was used without purification for the following step.

reactant | 6-(2,4-difluorophenoxy)-3-iodo-4-methyl-5-oxo-4,5-dihydro-pyrazolo[4,3-b]pyridine-1-carboxylic acid tert-butyl ester | 18 mg | C(C)(C)(C)OC(=O)N1N=C(C=2N(C(C(=CC21)OC2=C(C=C(C=C2)F)F)=O)C)I | C18H16F2IN3O4
reactant | sodium carbonate | 76 μL, 2 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chlorophenylboronic acid | 12 mg, 2 eq | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
solvent | benzene | 1.3 mL | C1=CC=CC=C1 | C6H6
solvent | methanol | 0.26 mL | CO | CH4O
catalyst | Pd(PPh3)4 | 13 mg, 0.3 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-chlorophenyl)-6-(2,4-difluorophenoxy)-4-methyl-5-oxo-4,5-dihydro-pyrazolo[4,3-b]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C=2N(C(C(=CC21)OC2=C(C=C(C=C2)F)F)=O)C)C2=C(C=CC=C2)Cl | C24H20ClF2N3O4
